US05164500
After 2.0 g of 2-amino-OXT-A was dissolved in 300 ml of 1/10M phosphate buffer (pH 6.5), 8.0 g of 5'-adenylic acid deaminase (manufactured by Amano Pharmaceutical Co., Ltd., DEAMIZYME®) was added to the solution followed by stirring at 37° C. for 70 hours. After insoluble matters of the reaction solution were removed by filtration, the filtrate was passed through a column packed with 50 ml of activated charcoal powders (manufactured by Wako Pure Chemical Industry K.K., for chromatography). After washing with water, elution was performed with 50% aqueous methanol. By concentrating the desired fraction to dryness, crude OXT-G was obtained. The crude powders were dissolved in 50 ml of water and the OXT-G in the solution was adsorbed onto MCI® GEL CHP 20 (300 ml) followed by elution with water. The desired fraction was concentrated and evaporated to dryness under reduced pressure to give 1.5 g of OXT-G as colorless crystals (yield, 75%).

reactant | 2-amino-OXT-A | 2.0 g | C1=NC2=C(N1[C@H]3[C@@H]([C@H](O3)CO)CO)N=C(N=C2N)N | C10H14N6O3
reactant | 5'-adenylic acid | 8.0 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(N)=NC=NC12 | C10H14N5O7P
solvent | phosphate | 10M, pH 6.5 | P(=O)([O-])([O-])[O-]
product | OXT-G | C1=NC2=C(N1[C@H]3[C@@H]([C@H](O3)CO)CO)NC(=NC2=O)N | C10H13N5O4
